US09163027B2
2-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine-2-thiol (1.0 g, 5.6 mmol), 1-(2-bromoethoxy)-4-chlorobenzene (1.19 g, 5.1 mmol), potassium carbonate (1.75 g, 12.6 mmol), and anhydrous N,N-dimethylformamide (6 mL) was added to a 20 mL scintillation vial with a magnetic stirring bar. The vial was capped loosely and the mixture allowed to stir at room temperature for 30 minutes. Progress of the reaction was monitored by analytical HPLC with UV detection (Rt=8.28 min). The mixture contained solids starting at 30 minutes and was stopped stirring at 1 hour. The mixture was transferred into an Erlenmeyer flask with a total of 70 mL of water, and allowed to stir for 10 min. The resulting solid was isolated by filtration, rinsed with 100 mL of water, and allowed to dry under reduced pressure. The off-white powder was >90% pure by analytical HPLC with UV detection at 215 nm. The solid was dissolved in 25 mL of ethanol with gentle warming, diluted with 5 mL of water and allowed to cool. The fine white needles that formed were isolated by filtration, washed with 20 mL of cold ethanol, and dried to afford the title compound (1.43 g, 85% yield). EM (calc.): 334.1; MS (ESI) m/e: 335.1 (M+H)+. 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.31 (d, 2H), 7.12 (s, 1H), 7.03 (d, 2H), 4.33 (t, 2H), 3.60 (t, 2H), 2.68 (s, 3H), 2.55 (s, 3H).

reactant | 5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine-2-thiol | 5.6 mmol, 1.0 g | CC1=NC=2N(C(=C1)C)N=C(N2)S | C7H8N4S
reactant | 1-(2-bromoethoxy)-4-chlorobenzene | 5.1 mmol, 1.19 g | BrCCOC1=CC=C(C=C1)Cl | C8H8BrClO
reactant | potassium carbonate | 12.6 mmol, 1.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | water | 70 mL | O | H2O
product | 2-{[2-(4-chlorophenoxy)ethyl]sulfanyl}-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine | 1.43 g, 85% yield | ClC1=CC=C(OCCSC2=NN3C(N=C(C=C3C)C)=N2)C=C1 | C15H15ClN4OS
